Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old F with structuring ileal Crohn's s/p ileocecectomy 
in
___ currently on q2 weekly ___ who is admitted due to
abdominal pain. Pt woke up with periumbilical abdominal pain and
inability to pass flatus. She was nauseated but did not have
vomiting. She presented to the ED and was evaluated with labs
that showed WBC 10, CRP 4 and an abdominal x-ray which showed a
non-obstructive bowel pattern. She was discharged home with a
diagnosis of likely gastroenteritis. She went home and tried 
some
toast and crackers and had worsening abdominal pain. She got in
touch with the on call GI fellow who recommended re-presentation
to the ED due to concern for active Crohn's ileitis.   

On evaluation on the floor, pt reports ongoing periumbilical
pain. No nausea or vomiting. She has had flatus this afternoon,
but she has not had a BM today. She typically has 2 loose
BM's/day. Of note, she did have high residue foods while at work
yesterday including a salad and popcorn. She denies any sick
contacts or fever or chills. 

ROS: As above. Denies headache, lightheadedness, dizziness, sore
throat, sinus congestion, chest pain, heart palpitations,
shortness of breath, cough, urinary symptoms, muscle or joint
pains, focal numbness or tingling, skin rash. The remainder of
the ROS was negative.
 
Past Medical History:
# Crohn's disease - diagnosed in ___, s/p ileocecectomy in 
___,
currently on Humira, previously on Remicaide pre-operatively
which was discontinued due to IV access issues
# ADHD
# B12 deficiency
# s/p T&A
 
Social History:
___
Family History:
No family history of chronic GI illness or malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VS - 97.8 ___ 18 99%RA 
GEN - NAD
HEENT - NCAT, no oral lesions
NECK - supple, no LAD
CV - rrr, no r/m/g
RESP - clear
ABD - soft, mild tenderness in periumbilical area, quiet bowel
sounds
EXT - no edeama
SKIN - no rashes
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm and cooperative

DISCHARGE PHYSICAL EXAM:
========================
97.9 PO 113 / 70 62 18 98 RA 
GEN - NAD
HEENT - NCAT, no oral lesions
NECK - supple, no LAD
CV - rrr, no r/m/g
RESP - clear
ABD - soft, no significant tenderness, +BS
EXT - no edema
SKIN - no rashes
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm and cooperative
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:46PM BLOOD WBC-10.1* RBC-4.80 Hgb-12.8 Hct-39.9 
MCV-83 MCH-26.7 MCHC-32.1 RDW-14.5 RDWSD-43.8 Plt ___
___ 01:46PM BLOOD Neuts-74.5* ___ Monos-3.9* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-7.49* AbsLymp-2.10 
AbsMono-0.39 AbsEos-0.01* AbsBaso-0.03
___ 01:46PM BLOOD Glucose-74 UreaN-11 Creat-0.6 Na-138 
K-4.1 Cl-98 HCO3-25 AnGap-15
___ 01:46PM BLOOD ALT-34 AST-20 AlkPhos-93 TotBili-0.3
___ 01:46PM BLOOD Albumin-4.3
___ 01:56PM BLOOD CRP-4.0
___ 01:13AM BLOOD Lactate-1.8

PERTINENT IMAGING:
==================

KUB ___:
FINDINGS: 
Supine and upright views the abdomen pelvis were provided.  No 
free air below the right hemidiaphragm.  Bowel gas pattern is 
unremarkable demonstrating no signs of ileus or obstruction.  No 
worrisome calcifications.  Bony structures are intact.  Imaged 
lung bases are clear.  Transitional anatomy at the lumbosacral 
junction noted with partially lumbarized S1.
 
IMPRESSION: 
No bowel obstruction.

MRE ___:
IMPRESSION:
1. Short segment of active inflammation involving the 
neoterminal ileum
spanning 4.0 cm, increased in severity compared to ___.
2. Mild dilation with mild wall thickening/transmural 
enhancement involving loops of small bowel contiguous with the 
neoterminal ileum engorgement of the pericolonic vasculature is 
consistent with mild active on primarily chronic
inflammation.
3. Horizontal inferior sacral fracture concerning for a 
fracture.

DISCHARGE LABS:
===============
___ 09:10AM BLOOD WBC-7.9 RBC-4.38 Hgb-11.5 Hct-36.4 MCV-83 
MCH-26.3 MCHC-31.6* RDW-14.6 RDWSD-44.2 Plt ___ year old F with stricturing ileal Crohn's disease s/p 
ileocecectomy in ___, currently on Humira who presents with 
acute onset abdominal pain and constipation and inability to 
pass flatus concerning for obstruction. 

# Small bowel obstruction / Crohn's disease:
Patient was made NPO and supported with IVF.  Gastroenterology 
and colorectal surgery were consulted.  MRE did show some active 
inflammation, so she was started on steroids with improvement in 
her symptoms. She will be discharged on a prednisone taper until 
follow up with her outpatient gastroenterologist.

TRANSITIONAL ISSUES:
--------------------
- Patient noted to have new sacral fracture without evidence of 
osteopenia on MRE.  Likely occurred in the setting of trauma 
(slipping on ice) weeks ago.  She was started on Calcium and 
vitamin D given her requirement for steroids.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. adalimumab 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 
2. Vitamin D 1000 UNIT PO DAILY 
3. cranberry 500 mg oral DAILY 
4. norgestimate-ethinyl estradiol 0.25-35 mg-mcg oral DAILY 
5. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 1000 mg PO BID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth twice daily Disp #*60 Tablet Refills:*0 
2.  melatonin 1 mg oral QHS 
RX *melatonin 1 mg 1 tablet(s) by mouth nightly as needed Disp 
#*30 Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY 
40 mg x2 weeks, 30 mg x1 week, 20 mg x1 week 
Tapered dose - DOWN 
RX *prednisone 10 mg 4 tablet(s) by mouth daily Disp #*84 Tablet 
Refills:*0 
4.  adalimumab 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS  
5.  Amphetamine-Dextroamphetamine XR 20 mg PO DAILY  
6.  cranberry 500 mg oral DAILY  
7.  norgestimate-ethinyl estradiol 0.25-35 mg-mcg oral DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Partial bowel obstruction 
SECONDARY: Stricturing Crohn's disease, sacral fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with 
abdominal pain and a partial bowel obstruction that was due to 
your Crohn's disease. We started you on steroids, and your pain 
improved.  When you were able to eat and drink again, you were 
discharged home on steroids.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___